US07410976B2
2-cyclopropyl-3-cyano-pyridine.
2-Chloro-3-cyano-pyridine (9.69 g, 70.0 mmol), cyclopropylboronic acid (7.21 g, 84.0 mmol), Pd(OAc)2 (875 mg, 3.50 mmol), tricyclohexylphosphine (1.96 g, 7.00 mmol), and K3PO4 (44.5 g, 210 mmol) were suspended in toluene (280 ml) and H2O (14 ml) and heated at 100° C. for 5 h. The reaction mixture was dried over MgSO4 and the mixture was filtered through Celite, the filtrate was concentrated under reduced pressure. The resulting residue was purified by silica gel column chromatography (hexane/EtOAc=10/0 to 7/3) to obtain the intended compound as a pale yellow solid.

reactant | 2-Chloro-3-cyano-pyridine | 70.0 mmol, 9.69 g | ClC1=NC=CC=C1C#N | C6H3ClN2
reactant | cyclopropylboronic acid | 84.0 mmol, 7.21 g | C1(CC1)B(O)O | C3H7BO2
reactant | tricyclohexylphosphine | 7.00 mmol, 1.96 g | C1(CCCCC1)P(C1CCCCC1)C1CCCCC1 | C18H33P
reactant | K3PO4 | 210 mmol, 44.5 g | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
solvent | toluene | 280 ml | C1(=CC=CC=C1)C | C7H8
catalyst | Pd(OAc)2 | 3.50 mmol, 875 mg | CC(=O)[O-].CC(=O)[O-].[Pd+2]
solvent | H2O | 14 ml | O | H2O
product | 2-cyclopropyl-3-cyano-pyridine | C1(CC1)C1=NC=CC=C1C#N | C9H8N2
